US05753634
II. Synthesis of Octahydro-6,6-diphosphono-1-(2-acetylthioethyl)-1-methyl-1-pyrindinium bromide
Octahydro-1-methyl-1-pyrindine-6,6-diphosphonic acid (0.12 mmol) is dissolved in a mixture of water (25 ml) and DMSO (5 ml). To this is added 2-acetylthioethyl bromide (0.60 mmol) and the reaction mixture is heated at 60° for 24 hours. The reaction mixture is cooled, treated with charcoal, filtered and concentrated under reduced pressure. The crude residue is triturated with diethylether and the product can be obtained by recrystallizing the solid residue in water and isopropanol.

reactant | Octahydro-1-methyl-1-pyrindine-6,6-diphosphonic acid | 0.12 mmol | CN1CCCC2CC(CC12)(P(O)(=O)O)P(O)(=O)O | C9H19NO6P2
reactant | 2-acetylthioethyl bromide | 0.60 mmol | C(C)(=O)SCCBr | C4H7BrOS
reactant | charcoal | C | CH4
solvent | water | 25 ml | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | Octahydro-6,6-diphosphono-1-(2-acetylthioethyl)-1-methyl-1-pyrindinium bromide | [Br-].P(=O)(O)(O)C1(CC2CCC[N+](C2C1)(C)CCSC(C)=O)P(=O)(O)O | InChI=1S/C13H25NO7P2S.BrH/c1-10(15)24-7-6-14(2)5-3-4-11-8-13(9-12(11)14,22(16,17)18)23(19,20)21;/h11-12H,3-9H2,1-2H3,(H3-,16,17,18,19,20,21);1H
